US06858629B1
d) 2-amino-3-nitro-1-(2,3-epoxypropoxy)benzene
21.7 g (0.095 mol) of glycidyl tosylate, 10 g (0.0475 mol) of 2-amino-3-nitrophenol and 6.5 g of crushed K2CO3 are mixed in acetone and the mixture is heated at reflux for 18 hours. The mixture is filtered and the solvent is evaporated under reduced pressure. The crude reaction product is purified by flash chromatography, elution being carried out with a 9/1 hexane/ethyl acetate mixture. The title compound is obtained. M.p.: 7°-78° C.

reactant | glycidyl tosylate | 0.095 mol, 21.7 g | S(=O)(=O)(OCC1CO1)C1=CC=C(C)C=C1 | C10H12O4S
reactant | 2-amino-3-nitrophenol | 0.0475 mol, 10 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | K2CO3 | 6.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-amino-3-nitro-1-(2,3-epoxypropoxy)benzene | NC1=C(C=CC=C1[N+](=O)[O-])OCC1CO1 | C9H10N2O4
